US06316466B1
A mixture of 2-(3-bromobenzoyl)acetonitrile (16.5 g, 73.6 mmol) and N,N-diphenylformamidine (14.5 g, 73.6 mmol) in xylene (100 ml) was heated at reflux under a nitrogen atmosphere. After 3 h, the reaction mixture was cooled to room temperature and diluted with ether to give 2-(3-bromobenzoyl)-3-phenylaminoacrylonitrile (17.9 g) as a solid.

reactant | 2-(3-bromobenzoyl)acetonitrile | 73.6 mmol, 16.5 g | BrC=1C=C(C(=O)CC#N)C=CC1 | C9H6BrNO
reactant | N,N-diphenylformamidine | 73.6 mmol, 14.5 g | C1(=CC=CC=C1)N(C=N)C1=CC=CC=C1 | C13H12N2
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | ether | CCOCC | C4H10O
product | 2-(3-bromobenzoyl)-3-phenylaminoacrylonitrile | 17.9 g | BrC=1C=C(C(=O)C(C#N)=CNC2=CC=CC=C2)C=CC1 | C16H11BrN2O
